US06331556B2
7-Methoxy-2-methoxymethylbenzofuran-4-carboxylic acid (5-cyano-3-methyl-3H-imidazol-4-yl)-amide
Prepared from 7-methoxy-2-methoxymethylbenzofuran-4-carboxylic acid 4-nitro-phenyl ester (250 mg) and 5-amino-1-methyl-1-H-imidazole-4-carbonitrile (171 mg). The reaction was stirrred for 1 hour and 40 minutes. Water (1 ml) was added and the solvent removed in vacuo. Purification by column chromatography on silica eluting with 10% methanol in dichloromethane afforded the title compound as a pale yellow solid (178 mg).

reactant | 7-methoxy-2-methoxymethylbenzofuran-4-carboxylic acid 4-nitro-phenyl ester | 250 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C=1C=CC(=C2C1C=C(O2)COC)OC | C18H15NO7
reactant | 5-amino-1-methyl-1-H-imidazole-4-carbonitrile | 171 mg | NC1=C(N=CN1C)C#N | C5H6N4
solvent | Water | 1 ml | O | H2O
product | 7-Methoxy-2-methoxymethylbenzofuran-4-carboxylic acid (5-cyano-3-methyl-3H-imidazol-4-yl)-amide | 178 mg | C(#N)C1=C(N(C=N1)C)NC(=O)C=1C=CC(=C2C1C=C(O2)COC)OC | C17H16N4O4
